US04645527
N-(Aminocarbonyl)-2,3-dichlorobenzenesulfonamide
A solution of 10.0 g of 2,3-dichlorobenzenesulfonyl isocyanate in 200 mL of dry tetrahydrofuran was cooled to 0° C. and treated with 5.0 mL of anhydrous liquid ammonia, added in a dropwise manner at a rate that maintained the temperature between 0° and 10° C. The resultant white mixture was allowed to warm to room temperature and was stirred overnight. The precipitate was collected by filtration, dissolved in 250 mL of water, and acidified with concentrated hydrochloric acid to yield a white solid. Filtration and air drying gave 7.0 g of the title compound, m.p. 197°-200° C.; NMR (DMSO-d6): δ6.0-6.8 (br s, 2H), 7.6 (t, 1H), 7.8-8.1 (m, 2H), 11.1 (br s, 1H); IR (nujol): 1690 cm-1.

reactant | 2,3-dichlorobenzenesulfonyl isocyanate | 10.0 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)N=C=O | C7H3Cl2NO3S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-(Aminocarbonyl)-2,3-dichlorobenzenesulfonamide | 7.0 g | NC(=O)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C7H6Cl2N2O3S
